US07960365B2
1-Methyl-3-trifluoromethyl-1H-pyrazole-4-sulfonic acid {1-[4-(5-fluoro-2-methoxy-pyridin-3-yl)-phenyl]-ethyl}-amide
The organic phase was washed with water, brine and dried over anhydrous magnesium sulfate. The solvent was evaporated and the residue chromatographed on silica gel to give to give 2-{1-[4-(5-fluoro-2-methoxy-pyridin-3-yl)-phenyl]-ethyl}-isoindole-1,3-dione (0.31 g, 0.82 mmol, 41%). To a solution of 2-{1-[4-(5-fluoro-2-methoxy-pyridin-3-yl)-phenyl]-ethyl}-isoindole-1,3-dione (0.31 g, 0.8 mmol) in dioxan/methanol (1:1, 10 ml) was added hydrazine hydrate (0.83 g, 46.5 mmol). The reaction was stirred at room temperature for 24 h. The solvent was evaporated and dichloromethane added. The resultant white solid was filtered off and dried to give 1-[4-(5-fluoro-2-methoxy-pyridin-3-yl)-phenyl]-ethylamine (0.21 g, 0.8 mmol, 100%) as a clear oil. To a solution of 1-[4-(5-fluoro-2-methoxy-pyridin-3-yl)-phenyl]-ethylamine (0.1 g, 0.4 mmol) in dichloromethane (2 ml) was added triethylamine (123 mg, 1.2 mmol) and 1-methyl-3-(trifluoromethyl)-1H-pyrazole-4-sulfonylchloride (111 mg, 0.45 mmol). The reaction mixture was agitated for 16 h and quenched with saturated aqueuos sodium bicarbonate solution. The organic phase was washed with water, brine and dried over anhydrous magneium sulfate. The residue was chromatographed on silica gel to give the title compound (42 mg, 0.1 mmol, 25%). 1H NMR (400 MHz, CDCl3): δ 8.00 (d, 1H), 7.45 (m, 3H), 7.35 (dd, 1H), 7.21 (d, 2H), 4.86 (d, 1H), 4.60 (q, 1H), 3.96 (s, 3H), 3.75 (s, 3H), 1.50 (b, 3H) ppm; MS (ESI) m/z: 459.3 [M+H]+.

reactant | 1-[4-(5-fluoro-2-methoxy-pyridin-3-yl)-phenyl]-ethylamine | 0.4 mmol, 0.1 g | FC=1C=C(C(=NC1)OC)C1=CC=C(C=C1)C(C)N | C14H15FN2O
reactant | triethylamine | 1.2 mmol, 123 mg | C(C)N(CC)CC | C6H15N
reactant | 1-methyl-3-(trifluoromethyl)-1H-pyrazole-4-sulfonylchloride | 0.45 mmol, 111 mg | CN1N=C(C(=C1)S(=O)(=O)Cl)C(F)(F)F | C5H4ClF3N2O2S
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 1-Methyl-3-trifluoromethyl-1H-pyrazole-4-sulfonic acid {1-[4-(5-fluoro-2-methoxy-pyridin-3-yl)-phenyl]-ethyl}-amide | 0.1 mmol, 42 mg, 25% | FC=1C=C(C(=NC1)OC)C1=CC=C(C=C1)C(C)NS(=O)(=O)C=1C(=NN(C1)C)C(F)(F)F | C19H18F4N4O3S
